US03953492
N-(3-Cyano-5-iodophenylsulfonyl)-N'-phenylacetamidine
A solution of 367 mg. (1 mmole) of N-(3-cyano-5-iodophenylsulfonyl) acetamidine in 10 ml. of chlorobenzene is heated with 205 mg. (2.2 mmoles) of aniline and the reaction mixture heated to reflux for 3 hours. The reaction mixture is cooled in an ice bath and filtered to remove the precipitate of aniline hydrochloride. The filtrate is treated with hexane affording crystalline N-(3-cyano-5-iodophenylsulfonyl)-N'-phenyl acetamidine.

reactant | N-(3-cyano-5-iodophenylsulfonyl) acetamidine | 1 mmole | C(#N)C=1C=C(C=C(C1)I)S(=O)(=O)NC(C)=N | C9H8IN3O2S
reactant | aniline | 2.2 mmoles | NC1=CC=CC=C1 | C6H7N
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | N-(3-Cyano-5-iodophenylsulfonyl)-N'-phenylacetamidine | C(#N)C=1C=C(C=C(C1)I)S(=O)(=O)NC(C)=NC1=CC=CC=C1 | C15H12IN3O2S
